US06080772
N1-Phenylaminothiocarbonyl-N2-[2-(indol-3-yl)acetyl]hydrazine
By substituting 1.5 g of phenylisothiocyanate for the 4-methoxyphenylisothiocyanate and 2 g of 2-(indol-3-yl)acetic acid hydrazide for the thien-2-carboxyhydrazide in the method of Example 97, 2.5 g of the title compound is obtained as an off-white solid.

reactant | phenylisothiocyanate | 1.5 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 4-methoxyphenylisothiocyanate | COC1=CC=C(C=C1)N=C=S | C8H7NOS
reactant | 2-(indol-3-yl)acetic acid hydrazide | 2 g | N1C=C(C2=CC=CC=C12)CC(=O)NN | C10H11N3O
product | N1-Phenylaminothiocarbonyl-N2-[2-(indol-3-yl)acetyl]hydrazine | 2.5 g | C1(=CC=CC=C1)NC(=S)NNC(CC1=CNC2=CC=CC=C12)=O | C17H16N4OS
